US07179804B2
[5-[1-(3,5-bis-trifluoromethyl-benzyl)-5-phenyl-1H-[1,2,3]triazol-4-yl]4-(2-chloro-benzoyl)-isoxazol-3-yl]-acetaldehyde
Combine [5-[1-(3,5-bis-trifluoromethyl-benzyl)-5-phenyl-1H-[1,2,3]triazol-4-yl]-3-(2,2-dimethoxy-ethyl)-isoxazol-4-yl]-(2-chloro-phenyl)-methanone (1 eq) in acetone/H2O (4:1) and p-toluenesulfonic acid (1 eq) with stirring. Attach a reflux condensor and stir overnight in a 60° C. oil bath. Neutralize with saturated aqueous NaHCO3, extract with ethyl acetate, dry over MgSO4, filter, and concentrate under vacuum. 1H NMR (CDCl3): δ 9.84 (s, 1H), 7.83 (s, 1H), 7.56–7.09 (m, 11H), 5.43 (s, 2H), 4.09 (s, 2H).

reactant | [5-[1-(3,5-bis-trifluoromethyl-benzyl)-5-phenyl-1H-[1,2,3]triazol-4-yl]-3-(2,2-dimethoxy-ethyl)-isoxazol-4-yl]-(2-chloro-phenyl)-methanone | 1 eq | FC(C=1C=C(CN2N=NC(=C2C2=CC=CC=C2)C2=C(C(=NO2)CC(OC)OC)C(=O)C2=C(C=CC=C2)Cl)C=C(C1)C(F)(F)F)(F)F | C31H23ClF6N4O4
reactant | p-toluenesulfonic acid | 1 eq | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | acetone H2O | CC(=O)C.O
product | [5-[1-(3,5-bis-trifluoromethyl-benzyl)-5-phenyl-1H-[1,2,3]triazol-4-yl]4-(2-chloro-benzoyl)-isoxazol-3-yl]-acetaldehyde | FC(C=1C=C(CN2N=NC(=C2C2=CC=CC=C2)C2=C(C(=NO2)CC=O)C(C2=C(C=CC=C2)Cl)=O)C=C(C1)C(F)(F)F)(F)F | C29H17ClF6N4O3
